US04277471
Following a precedure similar to that of Example 32, 1,2-epoxy-4-(1,1'-biphenyl-2-yl)butane was reacted with isopropylamine to provide N-isopropyl-2-hydroxy-4-(1,1'-biphenyl-2-yl)butylamine. The amine base so formed was reacted with hydrogen chloride to provide N-isopropyl-2-hydroxy-4-(1,1'-biphenyl-2-yl)butylaminium chloride. M.P. 153°-154° C.

reactant | 1,2-epoxy-4-(1,1'-biphenyl-2-yl)butane | O1CC1CCC1=C(C=CC=C1)C1=CC=CC=C1 | C16H16O
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-isopropyl-2-hydroxy-4-(1,1'-biphenyl-2-yl)butylamine | C(C)(C)NCC(CCC1=C(C=CC=C1)C1=CC=CC=C1)O | C19H25NO
